US06110958
1-(2,6-Dichloro-4-trifluoromethylphenyl)-4-iodo-1,2,3-triazole
To a solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trimethylsilyl 1,2,3-triazole (EP-400842-A1; 1.00 g) in tetrahydrofuran (20 ml) was added silver trifluoroacetate (623 mg) and iodine (716 mg) at -78° C. under an atmosphere of nitrogen. The reaction was allowed to warm to room temperature over 1 hour and then left to stir for a further 16 hours. The reaction was filtered and the filtrate diluted with water (100 ml) and extracted with ether (100 ml), the organic fraction was separarted, dried over MgSO4, filtered and evaporated to dryness. The residue was purified by column chromatography (silica, 100 g ) eluted with dichloromethane:hexane (2:1) to give the title compound as a pale yellow crystalline material, m.p. 194-195° C.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trimethylsilyl 1,2,3-triazole | 1.00 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=NC(=C1)[Si](C)(C)C | C12H12Cl2F3N3Si
reactant | iodine | 716 mg | II | I2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | silver trifluoroacetate | 623 mg | FC(C(=O)[O-])(F)F.[Ag+]
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-4-iodo-1,2,3-triazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=NC(=C1)I | C9H3Cl2F3IN3
